US04847335
Bisphenol A bis-(diallyl-bicyclo[2.2.1]hept-5-ene-2-carboxylate)
130 g of diallyl-bicyclo[2.2.1]hept-5-ene-2-carbonyl chloride are added dropwide at 20° C. within 30 minutes to a solution of 62.7 g of bisphenol A in 200 ml of pyridine. The mixture is then stirred for 1 hour at 80° C. and then worked up as described in Example 2. This gives 162 g (95% of theory) of a brown, liquid resin with η25 =3,165 mPas. By gel permeation chromatography (THF), the molecular weight is found to be 610 (Mn) or 691 (Mw).

reactant | diallyl-bicyclo[2.2.1]hept-5-ene-2-carbonyl chloride | 130 g | C(C=C)C1=C(C2CC(C1C2)C(=O)Cl)CC=C | C14H17ClO
reactant | bisphenol A | 62.7 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | THF | C1CCOC1 | C4H8O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | Bisphenol A bis-(diallyl-bicyclo[2.2.1]hept-5-ene-2-carboxylate) | C(C=C)C1=C(C2CC(C1C2)C(=O)O)CC=C.C(C=C)C2=C(C1CC(C2C1)C(=O)O)CC=C.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | InChI=1S/C15H16O2.2C14H18O2/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2*1-3-5-10-9-7-12(11(10)6-4-2)13(8-9)14(15)16/h3-10,16-17H,1-2H3;2*3-4,9,12-13H,1-2,5-8H2,(H,15,16)
